US07981903B2
To a solution of 2-methyl-6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone (4.7 g, 20 mmol) in THF (500 mL) was added 2.0 M BH3 in THF (49.8 mL, 100 mmol). The resulting solution was heated at reflux for 20 h. The mixture was quenched via careful addition of MeOH (50 mL), the resulting solution was concentrated under reduced pressure and the residue was heated at 80° C. with 2N HCl for 3 h. The reation was cooled, adjusted to basic pH via cautious addition of aqueous NH4OH, and extracted with dichloromethane. The combined organic layers were dried and concentrated under reduced pressure to give 6-methoxy-2-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (3 g crude, 67%).

reactant | 2-methyl-6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone | 20 mmol, 4.7 g | CN1C(C2=CC(=C(C=C2CC1)OC)[N+](=O)[O-])=O | C11H12N2O4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mmol, 49.8 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 3 g, 67% | COC=1C=C2CCN(CC2=CC1[N+](=O)[O-])C | C11H14N2O3
